US04737516
(P) N-(2-methylthio-7-benzo[b]thienylmethyl)methylamine
To a solution of 0.3 g of N-(2-methylthio-3-bromo-7-benzo[b]thienylmethyl)methylamine in abs. ether are added dropwise under inert gas at -70°, 1.4 ml of a 15% solution of n-butyllithium in n-hexane and stirring continued at -70° for half an hour. The mixture is then poured into ice-cooled 2N HCl, shaken and the acidic phase separated, made alkaline with NaOH and extracted with ether. The ether phase is dried, concentrated in vacuum and the resulting oil directly further reacted.

reactant | N-(2-methylthio-3-bromo-7-benzo[b]thienylmethyl)methylamine | 0.3 g | CSC1=C(C2=C(S1)C(=CC=C2)CNC)Br | C11H12BrNS2
reactant | ether | CCOCC | C4H10O
reactant | n-butyllithium | C(CCC)[Li]
reactant | HCl | 2N | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
product | N-(2-methylthio-7-benzo[b]thienylmethyl)methylamine | CSC1=CC2=C(S1)C(=CC=C2)CNC | C11H13NS2
